2203-08-25 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-24**]
   - CT Abd: No ascites, RLL opacity with air bronchograms, c/w airspace
   dz/pna, parapneumonic eff (small), atelectasis, splenic v/portal system
   dilatation (22mm diam), areas of hyperdensity in splenic vein (?
   chronic clot), s/p splenectomy, G tube tip in stomach, renal cyst
   unchanged, small bowel nl, 2 para-aortic LNs, thickening of sigmoid
   colon (ischemia v infectious colitis), no free air or fluid, rectal
   tube, prox rectum bowel wall thickening. No sclerotic or lytic lesions.
   - FK 9.1
   - ID did not approve aztreonam, wrote ceftriaxone
   - Cdiff ordered
   - Rifaximin ordered
   - [**Month/Day (2) 4137**] US with dopplers: ordered
   - Coumadin for portal v thrombosis restarted
   - Plan for RSBI today
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2203-8-24**] 06:42 AM
   Ceftriaxone - [**2203-8-24**] 05:32 PM
   Vancomycin - [**2203-8-24**] 08:00 PM
   Metronidazole - [**2203-8-25**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2203-8-24**] 10:26 AM
   Fentanyl - [**2203-8-24**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2203-8-25**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-25**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.4
   HR: 57 (51 - 64) bpm
   BP: 116/65(77) {104/53(66) - 118/67(79)} mmHg
   RR: 9 (5 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,184 mL
                                                                    140 mL
   PO:
             TF:
   IVF:
                                                                    854 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                  1,095 mL
   Urine:
                                                                  1,310 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -126 mL
                                                                   -955 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 755 (755 - 973) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 6 cmH2O
   Plateau: 12 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 98%
   ABG: ///25/
   Ve: 6.8 L/min
   Physical Examination
   Intubated, sedated
   Chest-
   CV-
   Abd-
   Ext- edema in legs
   Labs / Radiology
   233 K/uL
   9.9 g/dL
   121 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   40 mg/dL
   108 mEq/L
   140 mEq/L
   31.5 %
   23.1 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
   WBC
   28.0
   23.1
   Hct
   33.4
   31.5
   Plt
   233
   233
   Cr
   1.2
   1.2
   TCO2
   28
   Glucose
   127
   121
   Other labs: PT / PTT / INR:15.6/40.3/1.4, ALT / AST:26/41, Alk Phos / T
   Bili:311/2.9, Differential-Neuts:86.9 %, Lymph:11.6 %, Mono:1.2 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:159 IU/L,
   Ca++:9.4 mg/dL, Mg++:3.1 mg/dL, PO4:3.7 mg/dL
   C Diff- negative x 1
   Assessment and Plan
   54 yo m with hx of liver transplant with recurrent cirrhosis, now
   admitted with AMS, fever, and apnea.
   .
   # Apnea: unclear etiology, likely due to encephalopathy with underlying
   infection. Now intubated, doing well
   - wean vent today
   - monitor ABGs
   .
   # Fevers/leukocytosis: now afebrile since starting abx. Source of
   infection unclear. Hx of intraabdominal infections in the past. Per
   radiology pt may have fluid collection over [**Last Name (LF) 4137**], [**First Name3 (LF) **] will repeat CT with
   contrast.
   - CT scan of abd today with IV contrast
   - Pre-scan hydration
   - continue vanco, Flagyl, and ceftriaxone
   - f/u on blood, urine, and CSF cxs
   .
   # AMS/Encephalopathy: likely from liver disease, decompensation. Not
   likely meningitis due to CSF results
   - lactulose, titrate to [**2-23**] BMs per day
   - monitor MS
   - wean sedation today
   .
   # ARF: Cr still elevated from baseline, was up to >2 during last
   admission, it improved with fluids, was given 1 liter of fluids in ER
   - will monitor
   - renally dose meds
   - avoid IV contrast if possible
   .
   # s/p liver transplant with recurrent liver failure: has recurrent hep
   C infection
   - continue tacrolimus, check levels (d/w transplant how frequently to
   check FK)
   - lactulose to improve encephalopathy
   - transplant team following
   - will consult hepatology this AM
   .
   # Anemia: hct is stable, anemia [**1-24**] to liver disease
   - monitor hct
   .
   # Chronic pain: on home gabapentin and methadone
   - will hold due to borderline hypotension
   .
   # Diabetes: BS only mildly elevated
   - SSI
   .
   # hx of Hypertension: BP is borderline low off of meds
   - holding atenolol and Cartia XT for now
   .
   # Bradycardia: only while on sedation
   - will monitor
   - will change to fentanyl while pt goes to CT scan
   # Coagulopathy: recent supratheraputic INR, Coumadin was recently
   stopped
   - will monitor coags
   - hold coumadin pending? [**Month/Day (2) 4137**] procedure
   .
   # FEN: No IVF, replete electrolytes, NPO for now
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals- 18g x 2
   .
   # Code:  Full (discussed with HCP)
   .
   # Communication: Sister [**Name (NI) 5479**] [**Name (NI) 10125**] is HCP, in [**Name (NI) 740**],
   [**Telephone/Fax (1) 10126**], cell
   .
   # Disposition: pending clinical improvement, hope to extubate later
   today vs tomorrow based on mental status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-8-24**] 04:27 AM
   22 Gauge - [**2203-8-24**] 12:33 PM
   20 Gauge - [**2203-8-24**] 10:26 PM
   Prophylaxis:
   DVT: heparin sub q
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-08-25 12:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure. S/P liver transplant
   24 Hour Events:
   Ct abdomen with ? collection in the LUQ. repeat CT with contrast today.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2203-8-24**] 06:42 AM
   Ceftriaxone - [**2203-8-24**] 05:32 PM
   Vancomycin - [**2203-8-24**] 08:00 PM
   Metronidazole - [**2203-8-25**] 01:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2203-8-24**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2203-8-25**] 01:00 AM
   Other medications:
   lanzoprazole, tacro, lamivudine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-25**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 73 (51 - 73) bpm
   BP: 135/69(86) {104/54(66) - 135/69(86)} mmHg
   RR: 13 (5 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,184 mL
                                                                    140 mL
   PO:
             TF:
   IVF:
                                                                    854 mL
                                                                     20 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                  1,275 mL
   Urine:
                                                                  1,310 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -126 mL
                                                                 -1,135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 651 (651 - 973) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 13
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   233 K/uL
   121 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.9 mEq/L
   40 mg/dL
   108 mEq/L
   140 mEq/L
   31.5 %
   23.1 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
   WBC
   28.0
   23.1
   Hct
   33.4
   31.5
   Plt
   233
   233
   Cr
   1.2
   1.2
   TCO2
   28
   Glucose
   127
   121
   Other labs: PT / PTT / INR:15.6/40.3/1.4, ALT / AST:26/41, Alk Phos / T
   Bili:311/2.9, Differential-Neuts:86.9 %, Lymph:11.6 %, Mono:1.2 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:159 IU/L,
   Ca++:9.4 mg/dL, Mg++:3.1 mg/dL, PO4:3.7 mg/dL
   Microbiology: c.diff x1 negative
   Assessment and Plan
 PNEUMONIA, ASPIRATION
   possible vs RUQ collection. On broad spectrum antibiotic coverage with
   Flagyl/ceftriaxone/vancomcyin, follow up repeat C.diff x2, follow up
   repeat CT abdomen with contrast prehydrate. [**Month (only) 60**] need aspiration of LUQ
   collection if this is septic source
 ALTERED MENTAL STATUS (NOT DELIRIUM): likely encephalopathy on
   lactulose, also possibly had durg overdose. Avoid benzodiazepines.
 Respiratory: mental status remains depressed, not following commands,
   will r/a after abdominal CT. Will only extubate if mental status
   improves and following simple commands
 Portal vein thrombosis: hold coumadin pending possible drainage of
   collection
   ICU Care
   Nutrition:
   Comments: on hold for planned extubation today
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-8-24**] 04:27 AM
   22 Gauge - [**2203-8-24**] 12:33 PM
   20 Gauge - [**2203-8-24**] 10:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments: discussion ongoing with sister.
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2203-08-26 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   [**8-25**]
   - Repeat CT/abd with fluid collection 6x3cm in LUQ
   - Ordered for IR guided drainage.
   - Kept intubated for procedure.
   - Placed RIJ as needed access for sedation.
   - Transplant asked for daily FK levels
   - K 3.0 this AM. Repleted with repeat level orderd at 3pm
   24 Hour Events:
 MULTI LUMEN - START [**2203-8-25**] 11:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2203-8-24**] 06:42 AM
   Ceftriaxone - [**2203-8-24**] 05:32 PM
   Metronidazole - [**2203-8-25**] 01:00 AM
   Vancomycin - [**2203-8-25**] 08:54 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2203-8-25**] 08:00 AM
   Propofol - [**2203-8-25**] 11:01 PM
   Heparin Sodium (Prophylaxis) - [**2203-8-26**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-26**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 55 (52 - 97) bpm
   BP: 111/62(74) {109/59(73) - 153/81(97)} mmHg
   RR: 7 (5 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,346 mL
                                                                    949 mL
   PO:
             TF:
   IVF:
                                                                  1,246 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    515 mL
   Urine:
                                                                  1,180 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -134 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 832 (586 - 832) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   9.9 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.0 mEq/L
   38 mg/dL
   111 mEq/L
   142 mEq/L
   32.2 %
   24.2 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
                             [**2203-8-26**]  03:41 AM
   WBC
   28.0
   23.1
   24.2
   Hct
   33.4
   31.5
   32.2
   Plt
   233
   233
   258
   Cr
   1.2
   1.2
   1.0
   TCO2
   28
   Glucose
   127
   121
   90
   Other labs: PT / PTT / INR:16.6/47.6/1.5, ALT / AST:26/38, Alk Phos / T
   Bili:270/2.3, Differential-Neuts:87.5 %, Lymph:9.5 %, Mono:2.9 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:121 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CT AB with contrast
   IMPRESSION:
   1. 6.7 x 3.8 cm rim-enhancing fluid collection in the left upper
   quadrant is
   concerning for abscess.
   2. Unchanged appearance of right lower lobe pneumonia. Slight interval
   increase in small bilateral pleural effusions.
   3. Unchanged appearance of extensive portal/mesenteric/splenic venous
   clot.
   4. Limited further evaluation secondary to extensive patient motion
   artifact.
   Microbiology: CSF negative
   Cdiff negative x2
   Blood culture no growth
   Urine culture no growth
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   54 yo m with hx of liver transplant with recurrent cirrhosis, now
   admitted with AMS, fever, and apnea.
   # Apnea: unclear etiology, likely due to encephalopathy with underlying
   infection. Now intubated, doing well
   - wean vent today
   - monitor ABGs
   # Fevers/leukocytosis: now afebrile since starting abx. Source of
   infection unclear. Hx of intraabdominal infections in the past. Per
   radiology pt may have fluid collection over [**Last Name (LF) 4137**], [**First Name3 (LF) **] will repeat CT with
   contrast.
   - CT scan of abd today with IV contrast
   - Pre-scan hydration
   - continue vanco, Flagyl, and ceftriaxone
   - f/u on blood, urine, and CSF cxs
   # AMS/Encephalopathy: likely from liver disease, decompensation. Not
   likely meningitis due to CSF results
   - lactulose, titrate to [**2-23**] BMs per day
   - monitor MS
   - wean sedation today
   # ARF: Cr still elevated from baseline, was up to >2 during last
   admission, it improved with fluids, was given 1 liter of fluids in ER
   - will monitor
   - renally dose meds
   - avoid IV contrast if possible
   # s/p liver transplant with recurrent liver failure: has recurrent hep
   C infection
   - continue tacrolimus, check levels (d/w transplant how frequently to
   check FK)
   - lactulose to improve encephalopathy
   - transplant team following
   - will consult hepatology this AM
   # Anemia: hct is stable, anemia [**1-24**] to liver disease
   - monitor hct
   # Chronic pain: on home gabapentin and methadone
   - will hold due to borderline hypotension
   # Diabetes: BS only mildly elevated
   - SSI
   # hx of Hypertension: BP is borderline low off of meds
   - holding atenolol and Cartia XT for now
   # Bradycardia: only while on sedation
   - will monitor
   - will change to fentanyl while pt goes to CT scan
   # Coagulopathy: recent supratheraputic INR, Coumadin was recently
   stopped
   - will monitor coags
   - hold coumadin pending? [**Month/Day (2) 4137**] procedure
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, PPI
   # Access: peripherals- 18g x 2
   # Code:  Full (discussed with HCP)
   # Communication: Sister [**Name (NI) 5479**] [**Name (NI) 10125**] is HCP, in [**Name (NI) 740**],
   [**Telephone/Fax (1) 10126**], cell
   # Disposition: pending clinical improvement, hope to extubate later
   today vs tomorrow based on mental status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2203-8-25**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2203-08-26 12:10:00 Physician Attending Progress Note
Chief Complaint: Fever, encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   lost iv access, central line placed.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2203-8-24**] 06:42 AM
   Ceftriaxone - [**2203-8-24**] 05:32 PM
   Metronidazole - [**2203-8-25**] 01:00 AM
   Vancomycin - [**2203-8-25**] 08:54 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2203-8-25**] 11:01 PM
   Pantoprazole (Protonix) - [**2203-8-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2203-8-26**] 08:00 AM
   Other medications:
   RISS, colace, peridex, lactulose, latanoprost, pancrealipase
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-26**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 64 (52 - 97) bpm
   BP: 127/72(85) {109/57(69) - 153/81(97)} mmHg
   RR: 10 (5 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,346 mL
                                                                  1,249 mL
   PO:
             TF:
   IVF:
                                                                  1,246 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    735 mL
   Urine:
                                                                  1,180 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -134 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 815 (586 - 832) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   258 K/uL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.0 mEq/L
   38 mg/dL
   111 mEq/L
   142 mEq/L
   32.2 %
   24.2 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
                             [**2203-8-26**]  03:41 AM
   WBC
   28.0
   23.1
   24.2
   Hct
   33.4
   31.5
   32.2
   Plt
   233
   233
   258
   Cr
   1.2
   1.2
   1.0
   TCO2
   28
   Glucose
   127
   121
   90
   Other labs: PT / PTT / INR:16.6/47.6/1.5, ALT / AST:26/38, Alk Phos / T
   Bili:270/2.3, Differential-Neuts:87.5 %, Lymph:9.5 %, Mono:2.9 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:121 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR with ETT in good position.
   Microbiology: blood, urine NGTD
   Assessment and Plan
 Abscess LUQ:
   s/p drain, likely source of infection on ceftriazxone/vanco/flagyl.
   Micro with no new growth, will follow up abscess cultures.
 ALTERED MENTAL STATUS (DELIRIUM)
   Hepatic encephalopathy + opiate use + likely delirium related to
   infection, LP negative for meningitis. Wean sedation
 Respiratory failure:
   Apnea likely [**1-24**] to opiate use, now cleared, wean sedation and wean to
   PS goal extubate today.
 Splenic vein thrombosis: restart coumadin when ok with IR.
 Access: Place PICC, pull central line.
   ICU Care
   Nutrition:
   Comments: on hold for likely extubation today
   Glycemic Control:  Regular insulin sliding scale, Comments: well
   controlled in 100s
   Lines:
   Multi Lumen - [**2203-8-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2203-08-27 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Extubated at 2pm, did well
   Nurse [**First Name (Titles) **] [**Last Name (Titles) **], follow up xray ordered
   very encephalopathic, give lactulose
   IR placed drain
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2203-8-26**] 02:37 PM
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2203-8-25**] 08:54 PM
   Ceftriaxone - [**2203-8-26**] 04:00 PM
   Metronidazole - [**2203-8-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2203-8-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2203-8-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-27**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 77 (51 - 87) bpm
   BP: 150/82(100) {102/53(65) - 157/87(102)} mmHg
   RR: 19 (9 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,613 mL
                                                                    192 mL
   PO:
             TF:
   IVF:
                                                                  1,158 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    880 mL
   Urine:
                                                                  1,720 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -107 mL
                                                                   -688 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 519 (519 - 519) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   246 K/uL
   10.8 g/dL
   70 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   30 mg/dL
   116 mEq/L
   145 mEq/L
   33.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
                             [**2203-8-26**]  03:41 AM
                             [**2203-8-26**]  03:19 PM
                             [**2203-8-27**]  04:14 AM
   WBC
   28.0
   23.1
   24.2
   14.5
   Hct
   33.4
   31.5
   32.2
   33.9
   Plt
   233
   233
   258
   246
   Cr
   1.2
   1.2
   1.0
   1.0
   0.9
   TCO2
   28
   Glucose
   127
   121
   90
   70
   Other labs: PT / PTT / INR:16.1/37.0/1.4, ALT / AST:31/85, Alk Phos / T
   Bili:320/3.6, Differential-Neuts:81.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:191 IU/L, Ca++:10.3 mg/dL, Mg++:2.4 mg/dL, PO4:1.3 mg/dL
   Microbiology:       ABSCESS      LEFT ABDOMINAL FLUID COLLECTION.
      GRAM STAIN (Final [**2203-8-26**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      WOUND CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATIC ENCEPHALOPATHY
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   54 yo m with hx of liver transplant with recurrent cirrhosis, now
   admitted with AMS, fever, and apnea.
   # Apnea: unclear etiology, likely due to encephalopathy with underlying
   infection. Now intubated, doing well
   - wean vent today
   - monitor ABGs
   - goal extubation later today if tolerates PS after sedation weaned
   # Fevers/leukocytosis: now afebrile since starting abx. Source of
   infection unclear. Hx of intraabdominal infections in the past. S/p
   drain placement  by IR of fluid collection
   - f/u cx on fluid
   - IR recs appreciated
   - continue vanco, Flagyl, and ceftriaxone
   - f/u on blood, urine, and CSF cxs
   # AMS/Encephalopathy: likely from liver disease, decompensation. Not
   likely meningitis due to CSF results
   - lactulose, titrate to [**2-23**] BMs per day
   - monitor MS
   - wean sedation today
   # ARF: Cr improved, was up to >2 during last admission, it improved
   with fluids, was given 1 liter of fluids in ER and fluids before CT
   scan
   - will monitor
   - renally dose meds
   # s/p liver transplant with recurrent liver failure: has recurrent hep
   C infection
   - continue tacrolimus, check levels daily
   - lactulose to improve encephalopathy
   - transplant team following
   - hep recs appreciated
   # Anemia: hct is stable, anemia [**1-24**] to liver disease
   - monitor hct
   # Chronic pain: on home gabapentin and methadone
   - will restart once extubated
   # Diabetes: BS only mildly elevated
   - SSI
   # hx of Hypertension: BP is borderline low off of meds
   - holding atenolol and Cartia XT for now
   # Bradycardia: only while on sedation
   - will monitor
   # Coagulopathy: recent supratheraputic INR, Coumadin was recently
   stopped
   - will monitor coags
   - hold coumadin pending IR recs
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, PPI
   # Access: IJ line
   # Code:  Full (discussed with HCP)
   # Communication: Sister [**Name (NI) 5479**] [**Name (NI) 10125**] is HCP, in [**Name (NI) 740**],
   [**Telephone/Fax (1) 10126**], cell
   # Disposition: pending clinical improvement, hope to extubate later
   today vs tomorrow based on mental status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2203-8-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2203-08-27 11:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54M with h/o OLT, recurrent cirrhosis, admitted with fever, a/w opiate
   o/d, encephalopathy and fever [**1-24**] liver abscess, intubated for
   apnea/encephalopathy.
   24 Hour Events:
   - Extubated 2pm yesterday
   - Got OGT, getting lactulose, but still encephalopathic, requiring
   sitter.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2203-8-25**] 08:54 PM
   Ceftriaxone - [**2203-8-26**] 04:00 PM
   Metronidazole - [**2203-8-27**] 08:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2203-8-27**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-27**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 84 (51 - 87) bpm
   BP: 158/81(99) {102/53(65) - 158/89(102)} mmHg
   RR: 20 (9 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,613 mL
                                                                    619 mL
   PO:
             TF:
   IVF:
                                                                  1,158 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  2,550 mL
   Urine:
                                                                  1,720 mL
                                                                  1,550 mL
   NG:
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                   -107 mL
                                                                 -1,931 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 519 (519 - 519) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: ///23/
   Ve: 6.1 L/min
   Physical Examination
   GEN: thin, agitated, not oriented.
   PULM Bronchial BS R base
   CV: Tachy, no M
   ABD:  Horiz upper abd scar, soft, NT
   EXT: No edema
   Labs / Radiology
   10.8 g/dL
   246 K/uL
   70 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   30 mg/dL
   116 mEq/L
   145 mEq/L
   33.9 %
   14.5 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
                             [**2203-8-26**]  03:41 AM
                             [**2203-8-26**]  03:19 PM
                             [**2203-8-27**]  04:14 AM
   WBC
   28.0
   23.1
   24.2
   14.5
   Hct
   33.4
   31.5
   32.2
   33.9
   Plt
   233
   233
   258
   246
   Cr
   1.2
   1.2
   1.0
   1.0
   0.9
   TCO2
   28
   Glucose
   127
   121
   90
   70
   Other labs: PT / PTT / INR:16.1/37.0/1.4, ALT / AST:31/85, Alk Phos / T
   Bili:320/3.6, Differential-Neuts:81.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:191 IU/L, Ca++:10.3 mg/dL, Mg++:2.4 mg/dL, PO4:1.3 mg/dL
   Imaging: - Awaiting post-PICC CXR from today.
   - Yesterday CXR with RLL consolidation.
   Microbiology: Abscess: 3+ PMNs, 1+ GNRs, culture pending.
   Assessment and Plan
   50M with HCV, s/p transplant, recurrent cirrhosis
 cause of apnea
   thought to be multifactorial (opiates, hep encephalopathy)
   1.  Fevers, leukocytosis
 improving post-drainage of abscess, although
   has new RLL PNA.
   -  Meropenem, flagyl
   2.  Encephalopathy
 anticipate slow clearing.
   - on lactulose, rifaxamin, appreciate liver service guidance.
   3.  Pain control
 rectal pain, chronic
   - Will uptitrate methadone, and use oxycodone for
   breakthrough/short-acting
   - Curbside pain service given that he is well known to them.
   4.  Ectopy
 just had PICC placed, suspect that PICC position may need
   to be readjusted (and combination
   5.  F/E/N
 Has been NPO, nutrition c/s for TF
   ICU Care
   Nutrition:  Has been NPO
 see above.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2203-8-25**] 11:00 PM
   Just had PICC placed.
   Prophylaxis:
   DVT:  On hep CS
   Stress ulcer:  on PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  35 mins

2203-08-28 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2203-8-27**] 12:00 PM
 PICC LINE - START [**2203-8-27**] 12:00 PM
 MULTI LUMEN - STOP [**2203-8-27**] 02:04 PM
 EKG - At [**2203-8-27**] 05:02 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2203-8-25**] 08:54 PM
   Ceftriaxone - [**2203-8-26**] 04:00 PM
   Metronidazole - [**2203-8-27**] 04:13 PM
   Cefipime - [**2203-8-28**] 12:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2203-8-27**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2203-8-27**] 04:13 PM
   Haloperidol (Haldol) - [**2203-8-27**] 06:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-28**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 70 (60 - 86) bpm
   BP: 137/73(88) {95/65(80) - 165/89(104)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,695 mL
                                                                  1,107 mL
   PO:
             TF:
                                                                    235 mL
                                                                    411 mL
   IVF:
                                                                  1,800 mL
                                                                    446 mL
   Blood products:
   Total out:
                                                                  5,080 mL
                                                                    590 mL
   Urine:
                                                                  3,100 mL
                                                                    590 mL
   NG:
   Stool:
                                                                  1,900 mL
   Drains:
                                                                     80 mL
   Balance:
                                                                 -2,385 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   9.9 g/dL
   122 mg/dL
   0.9 mg/dL
   23 mEq/L
   5.4 mEq/L
   29 mg/dL
   123 mEq/L
   150 mEq/L
   32.3 %
   11.8 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
                             [**2203-8-26**]  03:41 AM
                             [**2203-8-26**]  03:19 PM
                             [**2203-8-27**]  04:14 AM
                             [**2203-8-27**]  02:51 PM
                             [**2203-8-28**]  03:35 AM
   WBC
   28.0
   23.1
   24.2
   14.5
   11.8
   Hct
   33.4
   31.5
   32.2
   33.9
   32.3
   Plt
   233
   233
   258
   246
   234
   Cr
   1.2
   1.2
   1.0
   1.0
   0.9
   0.8
   0.9
   TCO2
   28
   Glucose
   127
   121
   90
   70
   66
   122
   Other labs: PT / PTT / INR:18.0/40.6/1.6, ALT / AST:46/136, Alk Phos /
   T Bili:305/3.3, Differential-Neuts:81.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL,
   LDH:191 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEPATIC ENCEPHALOPATHY
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   54 yo m with hx of liver transplant with recurrent cirrhosis, now
   admitted with AMS, fever, and apnea.
   # Apnea: Resolved. Now extubated doing well
   # Fevers/leukocytosis: now afebrile since starting abx. Leukocytosis
   improved with drainage of LUQ abscess. Also has RLL pna.
   - continue cefepime, flagyl
   - f/u on blood, urine, and CSF cxs
   - d/c'ed vanco
   # AMS/Encephalopathy: likely from liver disease, decompensation. CSF
   from admission negative.
   - lactulose, titrate to [**2-23**] BMs per day
   - appreciate hepatology recs
   # ARF: resolved with IVF.
   # s/p liver transplant with recurrent liver failure: has recurrent hep
   C infection
   - continue tacrolimus, check levels daily
   - transplant team following
   - hep recs appreciated
   # Anemia: hct is stable, anemia [**1-24**] to liver disease
   - monitor hct
   # Chronic pain: on home gabapentin and methadone
   - will restart once extubated
   - PRN oxtycondone pain meds
   # Diabetes: BS only mildly elevated
   - SSI
   # hx of Hypertension: BP is borderline low off of meds
   - holding atenolol and Cartia XT for now
   # Bradycardia: only while on sedation
   - will monitor
   # Coagulopathy: recent supratheraputic INR, Coumadin was recently
   stopped
   - will monitor coags
   - hold coumadin pending IR recs
   # FEN: No IVF, replete electrolytes, NPO for now
   # Prophylaxis: Subcutaneous heparin, PPI
   # Access: IJ line
   # Code:  Full (discussed with HCP)
   # Communication: Sister [**Name (NI) 5479**] [**Name (NI) 10125**] is HCP, in [**Name (NI) 740**],
   [**Telephone/Fax (1) 10126**], cell
   # Disposition: pending clinical improvement, hope to extubate later
   today vs tomorrow based on mental status
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2203-8-25**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2203-8-28**] 04:48 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2203-8-27**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-08-28 11:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2203-8-27**] 12:00 PM
 PICC LINE - START [**2203-8-27**] 12:00 PM
 MULTI LUMEN - STOP [**2203-8-27**] 02:04 PM
 EKG - At [**2203-8-27**] 05:02 PM
   Yesterday:
   -Started receiving lactulose, received some haldol; delirium
   continues.
   -Cefepime and flagyl; await vanc trough to redose.
                   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2203-8-25**] 08:54 PM
   Ceftriaxone - [**2203-8-26**] 04:00 PM
   Cefipime - [**2203-8-28**] 12:13 AM
   Metronidazole - [**2203-8-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2203-8-27**] 06:16 PM
   Pantoprazole (Protonix) - [**2203-8-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2203-8-28**] 08:00 AM
   Other medications:
   Lactulose.
   Rifaximin.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-8-28**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 72 (60 - 85) bpm
   BP: 148/79(96) {95/65(80) - 165/85(104)} mmHg
   RR: 23 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,695 mL
                                                                  1,802 mL
   PO:
             TF:
                                                                    235 mL
                                                                    611 mL
   IVF:
                                                                  1,800 mL
                                                                    821 mL
   Blood products:
   Total out:
                                                                  5,080 mL
                                                                  2,130 mL
   Urine:
                                                                  3,100 mL
                                                                  1,130 mL
   NG:
   Stool:
                                                                  1,900 mL
   Drains:
                                                                     80 mL
   Balance:
                                                                 -2,385 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GEN:  Thin, tremulous.
   HEENT: MM dry
   PULM: CTAB
   CV: Reg
   ABD: NABS, soft
   EXT: Cool
   NEURO:  tremulous, a bit agitated, more oriented today, appropriate
   Labs / Radiology
   9.9 g/dL
   234 K/uL
   122 mg/dL
   0.9 mg/dL
   23 mEq/L
   5.4 mEq/L
   29 mg/dL
   123 mEq/L
   150 mEq/L
   32.3 %
   11.8 K/uL
        [image002.jpg]
                             [**2203-8-24**]  04:36 AM
                             [**2203-8-24**]  05:19 AM
                             [**2203-8-25**]  03:45 AM
                             [**2203-8-26**]  03:41 AM
                             [**2203-8-26**]  03:19 PM
                             [**2203-8-27**]  04:14 AM
                             [**2203-8-27**]  02:51 PM
                             [**2203-8-28**]  03:35 AM
   WBC
   28.0
   23.1
   24.2
   14.5
   11.8
   Hct
   33.4
   31.5
   32.2
   33.9
   32.3
   Plt
   233
   233
   258
   246
   234
   Cr
   1.2
   1.2
   1.0
   1.0
   0.9
   0.8
   0.9
   TCO2
   28
   Glucose
   127
   121
   90
   70
   66
   122
   Other labs: PT / PTT / INR:18.0/40.6/1.6, ALT / AST:46/136, Alk Phos /
   T Bili:305/3.3, Differential-Neuts:81.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL,
   LDH:191 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   50M with HCV, s/p transplant, cirrhosis
 cause of apnea thought to be
   multifactorial (opiates, hep encephalopathy)
 now resolved -  s/p
   drainage of liver abscess
 with improvement in wbc
 mental status
   slowly improving.
 Infections:  RLL PNA (prior to admission), liver abscesses
    - On cefepime, flagyl; add atypical coverage for PNA.
 PAIN, ANAL OR RECTAL
   - Getting oxycodone prn; will eventually titrate methadone.
   - Can restart gabapentin.
 F/E/N: Hypernatremic, mild hyperkalemia
 getting more free H20,
   kayexelate.
 MS Change
 likely multifactorial, hepatic encephalopathy, now
   hyperNa
 s/p liver transplant
   - Checking tacro level, follow liver recs
   - Tremor
 intermittent, seems likely related to pain, possible
   med-effect of haldol.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2203-8-28**] 04:48 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2203-8-27**] 12:00 PM
   Prophylaxis:
   DVT: SC Hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Likely to floor today.
   Total time spent: